US05883106
B. 4-Cyano-4-(3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran
To a dichloromethane (80 ml) solution of 4-cyano-4-(3-methoxyphenyl)-3,4,5,6-tetrahydro-2H-pyran (2.32 g, 10.35 mmol) cooled to 0° C. was added boron tribromide (3.15 ml, 33.3 mmol) dropwise over 10 min. The ice-bath was removed and the reaction mixture stirred at ambient temperature for 19 h, and then at reflux for 4 h. The reaction mixture was cooled and poured into water (150 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (50 ml×3). The combined organic extracts were washed with brine (50 ml), dried (MgSO4) and concentrated in vacuo. The crude product was crystallized from isopropyl ether to afford titled compound as off-white solids (1.43 g, 66%).

reactant | 4-cyano-4-(3-methoxyphenyl)-3,4,5,6-tetrahydro-2H-pyran | 10.35 mmol, 2.32 g | C(#N)C1(CCOCC1)C1=CC(=CC=C1)OC | C13H15NO2
reactant | boron tribromide | 33.3 mmol, 3.15 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-Cyano-4-(3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran | 1.43 g, 66% | C(#N)C1(CCOCC1)C1=CC(=CC=C1)O | C12H13NO2
